US04329347
5-Acetamino-6-(4-phenylmercapto-butoxy)-carbostyril
Prepared analogous to Example 122 from 5-acetamino-6-(4-bromo-butoxy)-carbostyril [prepared by reduction with zinc in acetic acid of 5-nitro-6-(4-bromo-butoxy)-carbostyril in the presence of acetic acid anhydride] and thiophenol.

reactant | 5-acetamino-6-(4-bromo-butoxy)-carbostyril | N(C(=O)C)C1=C2C=CC(NC2=CC=C1OCCCCBr)=O | C15H17BrN2O3
reactant | 5-nitro-6-(4-bromo-butoxy)-carbostyril | [N+](=O)([O-])C1=C2C=CC(NC2=CC=C1OCCCCBr)=O | C13H13BrN2O4
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | 5-Acetamino-6-(4-phenylmercapto-butoxy)-carbostyril | N(C(=O)C)C1=C2C=CC(NC2=CC=C1OCCCCSC1=CC=CC=C1)=O | C21H22N2O3S
